**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 2
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/calibration/src/templates/mosfet_level_1/nmos/dut.cir

** Start testbenches

********************* dut testbench 22_0 *********************
v_gs_ac_22_0 g_22_0 g_ac_22_0 DC 0 AC 1
e_gs_22_0 g_ac_22_0 0 v_sweep 0 1
v_ds_22_0 d_22_0 0 0.0
v_s_22_0 s_22_0 0 0
v_bs_22_0 b_22_0 0 0.0
x_22_0 d_22_0 g_22_0 s_22_0 b_22_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 22_1 *********************
v_gs_ac_22_1 g_22_1 g_ac_22_1 DC 0 AC 1
e_gs_22_1 g_ac_22_1 0 v_sweep 0 1
v_ds_22_1 d_22_1 0 0.0
v_s_22_1 s_22_1 0 0
v_bs_22_1 b_22_1 0 1.0
x_22_1 d_22_1 g_22_1 s_22_1 b_22_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 22_2 *********************
v_gs_ac_22_2 g_22_2 g_ac_22_2 DC 0 AC 1
e_gs_22_2 g_ac_22_2 0 v_sweep 0 1
v_ds_22_2 d_22_2 0 0.0
v_s_22_2 s_22_2 0 0
v_bs_22_2 b_22_2 0 -1.0
x_22_2 d_22_2 g_22_2 s_22_2 b_22_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut vto = 0.32719296983015134
alterparam dut kp = 2.0388900190589346e-05
alterparam dut gamma = 0.10316177751116831
alterparam dut phi = 0.8418301600562597
alterparam dut rd = 1.7977356919308394
alterparam dut rs = 1.600721106386587
alterparam dut cbd = 3.060557865643783e-16
alterparam dut cbs = 1.1098902963629738e-19
alterparam dut is = 6.173293136174817e-16
alterparam dut pb = 0.4123549922202785
alterparam dut cgso = 8.329601769822691e-11
alterparam dut cgdo = 1.2699452166256085e-13
alterparam dut cgbo = 1.1974504120501866e-16
alterparam dut rsh = 6.215052824858792
alterparam dut cj = 1.1695349558355424e-10
alterparam dut mj = 0.06553871612905432
alterparam dut cjsw = 3.411780558273831e-10
alterparam dut mjsw = 0.5509845322943423
alterparam dut tox = 1.1798379320737952e-07
alterparam dut nsub = 9.367014448954028e+18
alterparam dut nss = 3822467733052.639
alterparam dut nfs = 1982125934627.9956
alterparam dut tpg = 1.1422261094934048
alterparam dut xj = 9.367014448954027e-07
alterparam dut ld = 9.367014448954027e-07
alterparam dut uo = 847.4576568723296
alterparam dut vmax = 305863.53164571506
alterparam dut kf = 9.367014448954027e-22
alterparam dut af = 0.5182560313927939
alterparam dut fc = 3.2436362742859175
reset
** Model parameters end

** Declare the vectors to save.
save i(v_bs_22_0) i(v_bs_22_2) i(v_bs_22_1)

** Write the header of the results file.
echo "vgs,cgb_22_2,cgb_22_0,cgb_22_1" > /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:38:00/simulation_files/ac_point_dc_sweep_2.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgb_22_0 = abs(imag(i(v_bs_22_0)))/2*pi*10000.0
    let cgb_22_1 = abs(imag(i(v_bs_22_1)))/2*pi*10000.0
    let cgb_22_2 = abs(imag(i(v_bs_22_2)))/2*pi*10000.0

    echo "$val,$&cgb_22_2,$&cgb_22_0,$&cgb_22_1" >> /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:38:00/simulation_files/ac_point_dc_sweep_2.csv
end

.endc
********** End of control section **********

.end